US06825180B2
A mixture of (S)-8-benzyl-1,7-dimethyl-3-(5-hydroxyhexyl)pyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione (356 mg, 0.90 mmol, 1.0 eq), methanesulfonic anhydride (234 mg, 1.34 mmol), dichloromethane (10 ml), and 4-dimethylaminopyridine (220 mg, 1.79 mmol) was stirred at room temperature for 2 hours. After concentration under reduced pressure, the residue was partitioned between ethyl acetate (50 ml) and 0.1 M aqueous hydrochloric acid (50 ml). The organic phase was dried over sodium sulfate and concentrated under vacuum to provide crude (S)-8-benzyl-1,7-dimethyl-3-(5-methanesulfonyloxyhexyl)pyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione as an oil which was used immediately in the next step.

reactant | (S)-8-benzyl-1,7-dimethyl-3-(5-hydroxyhexyl)pyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione | 0.90 mmol, 356 mg, 1.0 eq | C(C1=CC=CC=C1)N1C(=CC(C2=C1N(C(N(C2=O)CCCC[C@H](C)O)=O)C)=O)C | C22H27N3O4
reactant | methanesulfonic anhydride | 1.34 mmol, 234 mg | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
catalyst | 4-dimethylaminopyridine | 1.79 mmol, 220 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-8-benzyl-1,7-dimethyl-3-(5-methanesulfonyloxyhexyl)pyrido[2,3-d]pyrimidine-2,4,5(1H,3H,8H)-trione | C(C1=CC=CC=C1)N1C(=CC(C2=C1N(C(N(C2=O)CCCC[C@H](C)OS(=O)(=O)C)=O)C)=O)C | C23H29N3O6S
